US08835420B2
Preparation x18: (S)-4-Methyl-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
(S)-1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (100 mg, 0.384 mmol), 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carbonitrile (77 mg, 0.384 mmol) and Et3N (0.059 mL, 0.423 mmol) in DMF (2 mL) were combined to give a yellow solution. The reaction mixture was stirred overnight at room temperature. The product was purified by LC/MS using a 15-40% CH3CN gradient in H2O with 0.035% formic acid. The pure fractions were combined and lyophilized to afford the title compound as a white solid (109 mg, 67%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.22-1.26 (s, 3 H), 1.50-1.65 (m, 3H), 2.40 (s, 3 H), 2.81-2.91 (m, 2 H), 3.07-3.20 (m, 2 H), 3.74-3.79 (m, 4 H), 3.82 (s, 3H), 5.88-6.00 (m, 1 H), 6.58-6.69 (m, 1 H), 7.76-8.07 (m, 1 H), 7.74-7.78 (m, 1 H), 7.85 (s, 1 H); ESI-MS m/z [M+H]+ calc'd for C21H25N2OS, 424.5; found 424.5.

reactant | (S)-1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.384 mmol, 100 mg | CN1C=CC2=NC(=C(C=C21)N2CCOCC2)[C@H](C)N | C14H20N4O
reactant | 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carbonitrile | 0.384 mmol, 77 mg | ClC1=NC(=NC(=C1C#N)C)SC | C7H6ClN3S
reactant | Et3N | 0.423 mmol, 0.059 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-4-Methyl-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 109 mg, 67% | CC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)SC | C21H25N7OS
